US05885986
0.24 g (0.00061 mol) of 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one was dissolved in 30 ml of ethanol and treated with 0.1 6 ml (0.00061 mol) of 3.7N ethanolic hydrochloric acid. The solution was completely freed from the solvents and recrystallized from ethanol/diethyl ether. There was obtained 0.22 g (84%) of 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride as white crystals; m.p. 203°-205°.

reactant | 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 0.00061 mol, 0.24 g | C(CC)N(CCC)CC=1N=C(OC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | C22H27N5O2
reactant | hydrochloric acid | 3.7N | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(4-dipropylaminomethyl-oxazol-2-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one hydrochloride | 0.22 g, 84% | Cl.C(CC)N(CCC)CC=1N=C(OC1)C=1N=CN2C1CN(C(C1=C2C=CC=C1)=O)C | InChI=1S/C22H27N5O2.ClH/c1-4-10-26(11-5-2)12-16-14-29-21(24-16)20-19-13-25(3)22(28)17-8-6-7-9-18(17)27(19)15-23-20;/h6-9,14-15H,4-5,10-13H2,1-3H3;1H
